US07022707B2
2-Chloro-6-fluoro-4-(2-methoxy-ethoxy)-benzylalcohol:
This compound was prepared from 3-chloro-5-fluoro-4-hydroxymethyl-phenol and (2-bromoethyl) methyl ether according to the procedure described in Example 179 to give the product as a yellowish oil (209 mg, 52%); MS (EI): 234.1 (M)+.

reactant | 3-chloro-5-fluoro-4-hydroxymethyl-phenol | ClC=1C=C(C=C(C1CO)F)O | C7H6ClFO2
reactant | (2-bromoethyl) methyl ether | COCCBr | C3H7BrO
product | 2-Chloro-6-fluoro-4-(2-methoxy-ethoxy)-benzylalcohol | 209 mg, 52% | ClC1=C(CO)C(=CC(=C1)OCCOC)F | C10H12ClFO3
